US08580957B2
A solution of 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (for a preparation see intermediate 58) (84 mg, 0.166 mmol) in dichloromethane (DCM) (3 mL) at room temperature under nitrogen was treated with trifluoroacteic acid TFA (0.5 mL, 6.49 mmol) and the resulting mixture was stirred at this temperature for 1 h then concentrated in vacuo. The residue was loaded onto a 10 G SCX cartridge and eluted with MeOH (2×20 mL) then with a 2N NH3 in MeOH (20 mL). The ammonia fractions were collected and concentrated in vacuo to give (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-3-pyridinyl-1,2,3,4-tetrahydro-4-quinolinamine (61 mg, 0.151 mmol, 91%) as a brown oil.

reactant | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC=1C=NC=CC1)C | C28H36N6O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-3-pyridinyl-1,2,3,4-tetrahydro-4-quinolinamine | 0.151 mmol, 61 mg, 91% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCNC)NC=1C=NC=CC1)C | C23H28N6O
